US05756507
Step 8E N-{4-[4-({2-[5-amino-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl}benzylamino)butyl]phenyl}methanesulfonamide
To a stirred solution of N-{4-[4-(benzyl-{2-[2-(3,5-dimethylphenyl)-5-nitro-1H-indol-3-yl]ethyl}amino)butyl]phenyl}methanesulfonamide (59 mg in 4 mL absolute ethanol) was added ca. 15 mg of Raney® nickel. The reaction flask was fitted with a hydrogen balloon, evacuated and recharged with hydrogen (3 times) and stirred at room temperature. After 3 hours the reaction was flushed with nitrogen, filtered over diatomaceous earth and concentrated in vacuo. Purification by flash chromatography on silica gel (hexane:ethyl acetate, 1:2) gave the title compound (42 mg).

reactant | N-{4-[4-(benzyl-{2-[2-(3,5-dimethylphenyl)-5-nitro-1H-indol-3-yl]ethyl}amino)butyl]phenyl}methanesulfonamide | 4 mL, 59 mg | C(C1=CC=CC=C1)N(CCCCC1=CC=C(C=C1)NS(=O)(=O)C)CCC1=C(NC2=CC=C(C=C12)[N+](=O)[O-])C1=CC(=CC(=C1)C)C | C36H40N4O4S
reactant | hydrogen | [H][H] | H2
catalyst | Raney® nickel | ca. 15 mg | [Ni] | Ni
product | N-{4-[4-({2-[5-amino-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl}benzylamino)butyl]phenyl}methanesulfonamide | 42 mg | NC=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCN(CCCCC1=CC=C(C=C1)NS(=O)(=O)C)CC1=CC=CC=C1 | C36H42N4O2S
